US07648997B2
Butyryl chloride (4.7 mL, 45.4 mmol) was added dropwise to a solution of 3-[(3-amino[1,5]naphthyridin-4-yl)amino]propyl acetate prepared in Part C in dichloromethane (160 mL) at 0° C. The solution was allowed to warm to room 3 temperature and stir for 1 hour, then was concentrated under reduced pressure to provide 3-{[3-(butyrylamino)[1,5]naphthyridin-4-yl]amino}propyl acetate hydrochloride as a dark orange foam that was used directly in the next step.

reactant | Butyryl chloride | 45.4 mmol, 4.7 mL | C(CCC)(=O)Cl | C4H7ClO
reactant | 3-[(3-amino[1,5]naphthyridin-4-yl)amino]propyl acetate | C(C)(=O)OCCCNC1=C(C=NC2=CC=CN=C12)N | C13H16N4O2
solvent | dichloromethane | 160 mL | ClCCl | CH2Cl2
product | 3-{[3-(butyrylamino)[1,5]naphthyridin-4-yl]amino}propyl acetate hydrochloride | Cl.C(C)(=O)OCCCNC1=C(C=NC2=CC=CN=C12)NC(CCC)=O | InChI=1S/C17H22N4O3.ClH/c1-3-6-15(23)21-14-11-20-13-7-4-8-18-16(13)17(14)19-9-5-10-24-12(2)22;/h4,7-8,11H,3,5-6,9-10H2,1-2H3,(H,19,20)(H,21,23);1H
